Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Tylenol-Codeine #3 / Protonix / Oxycodone / tramadol / 
Hydrocodone / Codeine / passion fruit / berries / Grapefruit / 
all fruits / tizanidine / gabapentin / Penicillins
 
Attending: ___.
 
Chief Complaint:
"I needed a therapist"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient reports multiple psychosocial stressors including issues
with public housing management refusing to repair leaking 
ceiling
and refusing to rent a 3 bed room apartment to her so her
children (boy ___ and girl ___) can have separate rooms. Patient
also reports contentious relationship with her mother that has
been ongoing for many years. She also reports being assaulted by
PT1 (___) driver in ___ and being 
fearful
that this man will harm her and her children as he lives in her
neighborhood and she has seen him outside of her home. 

___ says she is usually the person friends and family come  
to
to discuss their problems, however ___ has been feeling
overwhelmed lately and had no one to talk to. Patient says she
went to see a SW and psychiatrist. earlier this week. During her
psychiatry appointment with Dr. ___ she feels she
miscommunicated her symptoms and was subsequently put on a ___. Patient says she endorsed AH telling her she is ugly and
stupid, but not to harm herself. Pt says when Dr. ___ her
whether the voices were telling her to kill herself, patient
responded "Kill myself"... and Dr. ___ that to mean she 
was
suicidal. 

Patient mentions overdosing on her grandmothers pills at age ___
after losing her best friend to murder. Pt says she felt guilty
bc she may have been able to keeping thinking on that because I
have kids and they are my priority." Patient says she cares very
much about her children and realizes she needs to be healthy for
them. She is open to working with ___ team, but would like to go
home ASAP. Patient's children are staying relatives until she
returns.

Regarding depressive sx, patient endorses "up and down mood but
mostly sad" and overwhelmed by emotion. Patient says her
depression is marked mostly by crying spells and low mood, but
she denies problems with memory, concentration, energy, and
anhedonia. She denies SI. She reports erratic sleep for the past
few months described as sleeping from 8pm to 11pm... then being
up until ___ at which time she gets her children up for 
school.
She usually takes a nap from 11am-1pm. Patient denies sx of 
mania
or hypomania. Other than "voices" directing negative comments
towards her (i.e. calling her stupid or ugly), she denies
symptoms of psychosis. No sx of eating d/o or OCD. 

Pt expresses belief that "depression is a part of life."
Treatment reassures her that it is possible to have relief from
depression with meds and/or therapy. Patient does not like the
idea of taking medications as she has several allergies. She was
open to taking Benadryl to help with sleep.
 
Past Medical History:
Past psychiatric history: Per initial ED consult note by Dr.
___ on ___- confirmed w. pt.
- Diagnoses: Depression, PTSD
- Hospitalizations: Denies
- Current treaters and treatment: Both at ___: Psychiatrist:
Dr. ___. Therapist: ___
- Medication and ECT trials: Denies
- Self-injury: Reports once suicide attempt by overdose in ___,
on her grandmother's "heart medications" - states that she 
became
drowsy, but had no psychiatric treatment following this.
- Harm to others: Denies
- Access to weapons: Denies

Past medical history: Per initial ED consult note by Dr. 
___ on ___- confirmed w. pt.
PCP: ___, MD
___ "knee surgery" ___ years ago, with ongoing chronic knee pain
Obesity
s/p cholecystectomy
- Denies h/o head injuries or seizure
 
Social History:
Per initial ED consult note by Dr.
___ on ___- confirmed w. pt.
- Born/raised, childhood:  Born in ___, but grew up in ___ 
with
her father's family. Has an identical twin and an older brother.
Moved back to ___ in ___ to live near ___ family
- Education: Dropped out of high school with one course left,
following traumatic event (see below)
- Employment/Source of income: Formerly had a ___. Currently
unemployed. Was on disability, not currently
- Housing: Lives in ___ "in the projects" with her two
children.
- Family/Support: Reports "very bad" relationship with her 
mother
- Relationship Status: Single
- Children: ___ son, ___ daughter
- Trauma/Abuse: Extensive trauma history. Reports that she
witnessed her best friend get shot in the head in a gang-related
crime in ___. Had feared that gang was after her as well. Feels
guilt that she was not able to stop the shooting. Reports that
she was attacked by a PT1 driver in ___, thought that
this driver was going to kill her. History of rape during
childhood. Has ongoing PTSD symptoms with flashbacks and
nightmares.
- Access to weapons: Denies
 
Family History:
Family psychiatric history: Per initial ED consult note by Dr.
___ on ___- confirmed w. pt.
States "something was wrong" with her maternal cousin, she is 
not
sure of diagnosis and was unable to explain further.
 
Physical Exam:
Physical Examination:
VS 98.8, 125/84, 99, 16, 94%RA

Cognition:
 Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): correctly lists MOYB
 *Orientation: oriented to person, time, place, situation
*Memory: ___ registry, ___ recall after 5 minutes
 *Fund of knowledge: able to name 4 most recent US Presidents in
descending order
 Calculations: $1.75 = "7 quarters" 
 Abstraction: apple/orange = "fruit"
*Speech: normal rate, tone, volume, and prosody
 *Language: Native ___ speaker, fluent with no paraphasic
errors, appropriate to conversation

Mental Status:
 *Appearance: Well appearing who is somewhat tired, in no
apparent distress, appears stated age, good hygiene,
appropriately dressed in hospital gown
 Behavior: Smiling, intermittently laughing, friendly, pleasant,
appropriate eye contact, orients to interviewer, no abnormal
posturing, no psychomotor agitation or retardation
 *Mood / Affect: "Good" / euthymic, full range but nearing
expansive, intermittently laughing, normal intensity, 
appropriate
to situation, incongruent with mood as she seems disconnected to
traumatic events when discussing them. When bringing this to her
attention she becomes tearful and affectively appropriate for
topic being discussed.
 *Thought process / *associations: Linear, coherent,
goal-oriented, associations intact
 *Thought Content:  Reports intermittent passive SI. Reports
recent fleeting thought of killing herself on ___. Denies HI.
Denies VH. Reports AH that make negative, disparaging remarks,
although she later thought that these may be her thoughts only.
Does not appear to be responding to internal stimuli on 
interview
 *Judgment: Limited
 *Insight: Limited
 
Pertinent Results:
___ 05:58PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 05:58PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:58PM   WBC-7.7 RBC-4.49 HGB-13.6 HCT-42.1 MCV-94 
MCH-30.3 MCHC-32.3 RDW-12.9 RDWSD-44.4
 
Brief Hospital Course:
#) Major Depressive disorder with psychotic Features and Post 
Traumatic Stress Disorder:
The patient's admitting symptoms of command auditory 
hallucinations (which instructed her to commit suicide) began to 
decrease upon admission. She noted that her mood improved 
greatly during admission. She cites the fact that she was 
removed from a stressful outpatient situation and that she has 
now had a chance to cope with those stressors which has helped 
her mood and outlook. Of note, the patient reports that she is 
usually a person who her friends come to for help. While she was 
admitted she appreciated the fact that she was able to discuss 
her own stressors with others, including both the treatment team 
as well as other patients. Because of this benefit she 
experienced as an inpatient, she hopes to followup with an 
outpatient therapist.

While she was admitted she began to contemplate ways to improve 
her mental health
as an outpatient and spent time in group sessions with the goal 
of improving her coping skills. On discharge she noted that she 
hopes to volunteer at her child's school because she likes 
working with children and finds it rewarding and relaxing.

No new psychiatric medications were added on this admission. As 
outlined later in this summary, the primary team discussed 
medication options for PTSD and depressive symptoms with the 
patient on multiple occasions. Ms. ___ expressed consistent 
desire that she not start any new medications, citing her 
extensive allergy history, low tolerance to medications in 
general, and belief that she will continue to improve without 
new medication. The risks and benefits of psychiatric 
medications were explained on several occasions and the patient 
voiced understanding of these risks and benefits and maintained 
her desire to not start new medications. Given her right and 
capacity to make this choice, she was not started on any 
psychiatric medications while admitted or on discharge.

On discharge Ms. ___ was arranged with follow-up at the 
___ partial hospitalization program for further 
treatment and to be referred to an outpatient therapist and 
psychiatrist.

Medical: 
#) Chest pain: On ___ the patient complained of sternal chest 
pain which was similar in character to pain that she experienced 
earlier this year for which she visited the ED. On those 
previous visits the ED physicians were concerned for
costochondritis. She denied difficulty breathing or any 
respiratory distress, pain in the lower extremities, any periods 
of immobility recently, and denies smoking. EKG and labs (CBC, 
BMP, and troponins) were all ordered which were negative. A 
internal medicine consult was placed and the medicine team 
visited the patient (please see their note from ___ for full 
details). Her chest pain was thought to be due to 
costochondritis and responded well to Tylenol and hot pads. She 
tried a Lidocaine patch which she thought made her itch and the 
patch was thus discontinued. Of note, NSAIDS were avoided due to 
patient's history of peptic ulcer.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
No new medications were added. The primary team discussed 
___ options for both PTSD and her depressive symptoms on 
multiple occasions with the patient. Ms. ___ expressed 
consistent desire that she not start any new medications, citing 
her extensive allergy history, low tolerance to medications in 
general, and belief that she will continue to improve without 
new medication. The risks and benefits of psychiatric 
medications were explained on several occasions and the patient 
voiced understanding of these risks and benefits and maintained 
her desire to not start new medications. Given her right and 
capacity to make this choice, she was not started on any 
psychiatric medications while admitted or on discharge.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Post-traumatic stress disorder
-Major depressive disorder with psychotic features.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___